US05356918
N-(2-Nitrooxyethyl)-5-benzyl-2-oxothiazolidine-4-carboxamide (Compound No. 1-28)
A procedure similar to that described in Example 1 was repeated, but using 210 mg of N-(2-nitrooxyethyl)amine nitrate and 250 mg of 5-benzyl-2-oxothiazolidine-4-carboxylic acid, to obtain 220 mg of the title compound as pale yellow columnar crystals, melting at 123°-124° C. (after recrystallization from ethanol).

reactant | N-(2-nitrooxyethyl)amine nitrate | 210 mg | [N+](=O)(O)[O-].[N+](=O)([O-])OCCN
reactant | 5-benzyl-2-oxothiazolidine-4-carboxylic acid | 250 mg | C(C1=CC=CC=C1)C1C(NC(S1)=O)C(=O)O | C11H11NO3S
product | N-(2-Nitrooxyethyl)-5-benzyl-2-oxothiazolidine-4-carboxamide | 220 mg | [N+](=O)([O-])OCCNC(=O)C1NC(SC1CC1=CC=CC=C1)=O | C13H15N3O5S
